US09034880B2
Preparation of 5-(2-(6-carboxypyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole-8-carboxylic acid (Compound 469)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole-8-carboxylic acid, 5-vinylpyridine-2-carboxylic acid and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole-8-carboxylic acid | CN1CC2=C(NC=3C=CC(=CC23)C(=O)O)CC1 | C13H14N2O2
reactant | 5-vinylpyridine-2-carboxylic acid | C(=C)C=1C=CC(=NC1)C(=O)O | C8H7NO2
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-(2-(6-carboxypyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole-8-carboxylic acid | C(=O)(O)C1=CC=C(C=N1)CCN1C2=C(C=3C=C(C=CC13)C(=O)O)CN(CC2)C | C21H21N3O4
